US08614220B2
Ethyl 6-[(dimethylamino)methylene]-1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate
16 g (72 mmol) of ethyl 1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate were dissolved in 100 mL of dimethylformamide and 32 mL of dimethylformamide ditertbutyl acetate were added. The mixture was stirred at 60° C. for 8 hours. The solvent was then evaporated in vacuo and the product crystallized from ethanol to give the title compound (17.96 g, 90% yield).

reactant | ethyl 1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 72 mmol, 16 g | CN1N=C(C=2CCCC(C12)=O)C(=O)OCC | C11H14N2O3
reactant | dimethylformamide ditertbutyl acetate | 32 mL | C(C)(C)(C)C(C(=O)O)C(C)(C)C.CN(C=O)C
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | Ethyl 6-[(dimethylamino)methylene]-1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 17.96 g, 90% yield | CN(C)C=C1CCC=2C(=NN(C2C1=O)C)C(=O)OCC | C14H19N3O3
